US04071570
2-[2-(α,α,β,β-Tetrafluorophenethyl)phenyl]-imidazolin
2-(α,α,β,β-Tetrafluorophenethyl)benzonitrile, 2.06 g. (0.0074 mole), together with 1.2 g. (0.02 mole) of ethylenediamine and 3 drops of carbon disulfide, is heated in a sealed tube at 160°-165° C. for 18 hours. After cooling in an ice-bath, the tube is opened and the contents are poured into water. The orange gum that separates is washed with water by decantation and then dissolved in ethyl acetate. The ethyl acetate solution is extracted with 3N hydrochloric acid. The combined, ice-cold, acid extracts are rendered strongly alkaline with 40% aqueous sodium hydroxide and the oily base is extracted into ethyl acetate. The washed and dried ethyl acetate extract is concentrated under reduced pressure to a volume of about 25 ml. and 0.6 ml. of 8N ethanolic hydrogen chloride is added. Dilution with an equal volume of absolute ether precipitates the white crystalline hydrochloride salt of the product, m.p. 263°-266° C., sintering at 258° C. Recrystallization from acetone gives a purified sample, m.p. 266°-267° C.

reactant | 2-(α,α,β,β-Tetrafluorophenethyl)benzonitrile | FC(C(C1=CC=CC=C1)(F)F)(F)C1=C(C#N)C=CC=C1 | C15H9F4N
reactant | ethylenediamine | 0.02 mole | C(CN)N | C2H8N2
catalyst | carbon disulfide | 3 drops | C(=S)=S | CS2
solvent | water | O | H2O
product | 2-[2-(α,α,β,β-Tetrafluorophenethyl)phenyl]-imidazolin | FC(C(C1=CC=CC=C1)(F)F)(F)C1=C(C=CC=C1)C=1NCCN1 | C17H14F4N2
